US08633173B2
8-(1,1-dioxidothiomorpholin-4-yl)-N-(4-methoxyphenyl)[1,2,4]triazolo[1,5-a]pyridin-2-amine was prepared from (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-(4-methoxy-phenyl)-amine (50.0 mg, 0.157 mmol) and thiomorpholine 1,1-dioxide (25.0 mg, 0.185 mmol) in a manner analogous to Example 30. Product isolated as a tan solid (0.052 g, 89%). MP=231-234° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.11 (dd, J=6.4, 1.1 Hz, 1H), 7.50-7.45 (m, 2H), 6.94-6.89 (m, 2H), 6.77 (dd, J=7.7, 6.7 Hz, 1H), 6.73 (dd, J=7.6, 0.9 Hz, 1H), 6.57 (s, 1H), 4.12-4.06 (m, 4H), 3.81 (s, 3H), 3.28-3.23 (m, 4H). MS=374 (MH)+.

reactant | (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-(4-methoxy-phenyl)-amine | 0.157 mmol, 50.0 mg | BrC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)OC | C13H11BrN4O
reactant | thiomorpholine 1,1-dioxide | 0.185 mmol, 25.0 mg | N1CCS(CC1)(=O)=O | C4H9NO2S
product | 8-(1,1-dioxidothiomorpholin-4-yl)-N-(4-methoxyphenyl)[1,2,4]triazolo[1,5-a]pyridin-2-amine | O=S1(CCN(CC1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)OC)=O | C17H19N5O3S
